US06355803B1
Synthesis of N-[3-(4-benzyloxyphenyl)phenyl]isatin
Isatin (0.12 g, 0.81 mmol) in anhydrous DMF (30 mL) was cooled in an ice-bath under nitrogen and treated with sodium hydride (21 mg, 1.1 equivalents). The reaction was stirred in ice for 0.5 hours and then warm ed to room temperature. This solution was then treated with 4-(3-bromophenyl)phenol benzyl ether (Hajduk et al. Am. Chem. Soc. 1997, 119, 5818-5827), (0.16 g, 0.47 mmol) followed by copper iodide (0.32 g, 1.68 mmol). The reaction was heated in an oil-bath at 140° C. After ˜16 hours, the reaction was cooled to room temperature and concentrated under reduced pressure. The residue was dissolved in ethyl acetate (˜75 mL) and filtered. The filtrate was concentrated under reduced pressure to afford a sticky, brown solid which was purified by preparative TLC on silica gel using 25% ethyl acetate in hexanes as the developing solvent. Rf (product)=0.38. Yield =47 mg (25%); MADI-TOF MS 407.02 obs. (405.5 calc.); 1H-NMR (CDCl3) 5.12 (s, 2H), 6.95 (d, 1H, J=8 Hz), 7.06 (d, 2H, J=8.8 Hz), 7.18 (t, 1H, J=7.5 Hz), 7.33-7.47 (m, 7H), 7.53 (d, 2H, J=8.8 Hz), 7.57-7.60 (m, 2H), 7.71 (d, 1H, J=7.5 Hz).

reactant | Isatin | 0.81 mmol, 0.12 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | sodium hydride | 21 mg, 1.1 equivalents | [H-].[Na+]
reactant | 4-(3-bromophenyl)phenol benzyl ether | 0.47 mmol, 0.16 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(=CC=C1)Br | C19H15BrO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | copper iodide | 1.68 mmol, 0.32 g | [Cu](I)I
product | N-[3-(4-benzyloxyphenyl)phenyl]isatin | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=C(C=CC1)N1C(=O)C(=O)C2=CC=CC=C12 | C27H19NO3
